US05527819
Preparation of N-[2-(1-methylimidazol-4-yl)ethyl]-3-phenylsulfonyl-5-chloroindole-2-carboxamide (25)
Reaction of 3-phenylsulfonyl-5-chloroindole-2-carboxylic acid with 1-methylhistamine under the conditions of Example 37 provides the title compound.

reactant | 3-phenylsulfonyl-5-chloroindole-2-carboxylic acid | C1(=CC=CC=C1)S(=O)(=O)C1=C(NC2=CC=C(C=C12)Cl)C(=O)O | C15H10ClNO4S
reactant | 1-methylhistamine | CN1C=C(CCN)N=C1 | C6H11N3
product | N-[2-(1-methylimidazol-4-yl)ethyl]-3-phenylsulfonyl-5-chloroindole-2-carboxamide | CN1C=NC(=C1)CCNC(=O)C=1NC2=CC=C(C=C2C1S(=O)(=O)C1=CC=CC=C1)Cl | C21H19ClN4O3S
